US05962479
2-(S)-[2,5-Dimethyl-6-(2,4,6-trimethylphenoxy)-pyrimidin-4-ylamino]-butan-ol
A mixture of 4-chloro-2,6-dimethyl-6-(2,4,6-trimethylphenyoxy)-pyrimidine (30 mg) and 2-(S)-amino-1-butanol (0.5 ml) in 0.5 ml of DMSO was heated at 130° C. for 4 hours. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was separated, dried and concentrated to give a crude material. The crude residue was purified through silica gel column chromatography to give 24 mg of the title compound as white crystals. High MS for (C19H27N3O2) calc. 329.2103, found 329.21249; IR(KBr) 3400, 2940,1580 cm-1 ; 1H NMR (CDCl3) δ6.841 (s, 2H), 5.72 (brs, 1H), 4.45 (d, 1H), 3.82-3.96 (m, 1H), 3.72-3.9 (m, 1H), 3.5-3.6 (m, 1H), 2.27 (s, 3H), 2.21 (s, 3H), 2.08 (s, 3H), 2.02 (s, 6H), 1.4-1.7 (m, 2H), 1.03 (t, 3H) ppm.

reactant | 4-chloro-2,6-dimethyl-6-(2,4,6-trimethylphenyoxy)-pyrimidine | 30 mg | ClC=1N=C(NC(C1)(OC1=C(C=C(C=C1C)C)C)C)C | C15H19ClN2O
reactant | 2-(S)-amino-1-butanol | 0.5 ml | N[C@H](CO)CC | C4H11NO
reactant | DMSO | 0.5 ml | CS(=O)C | C2H6OS
product | 2-(S)-[2,5-Dimethyl-6-(2,4,6-trimethylphenoxy)-pyrimidin-4-ylamino]-butan-ol | 24 mg | CC1=NC(=C(C(=N1)N[C@H](CO)CC)C)OC1=C(C=C(C=C1C)C)C | C19H27N3O2
